US04419435
8-Acetamido-5-quinolinesulfonyl chloride
In a 1 liter 3-neck round bottomed flask, fitted with a mechanical stirrer and a calcium chloride drying tube, phosphorus oxychloride (360 ml) was chilled to less than 10° C. N-methylpyrrolidone (20 ml) was added (slight exotherm). When the temperature returned to <5° C., finely ground pyridinium 8-acetamido-5-quinolinesulfonate (36.0 g, 0.104 mole) was added. The reaction mixture was thoroughly packed in ice and stirred for 20 hrs. The resulting brown slurry was slowly added to ca. 2500 ml ice/water (cooled by an external ice-salt bath) with vigorous stirring. After stirring for one hour the product was collected by filtration and yielded 27.9 g (94 percent) of a tan powder, m.p. 203°-204° C. (decomp.).

reactant | phosphorus oxychloride | 360 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | pyridinium 8-acetamido-5-quinolinesulfonate | 0.104 mole, 36.0 g | C(C)(=O)NC1=CC=C(C=2C=CC=NC12)S(=O)(=O)[O-].[NH+]1=CC=CC=C1
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 8-Acetamido-5-quinolinesulfonyl chloride | 27.9 g, 94 percent | C(C)(=O)NC1=CC=C(C=2C=CC=NC12)S(=O)(=O)Cl | C11H9ClN2O3S
